US05686610
1-Benzyl-4-[3-(1,1-dimethylethylamino)pyridyl]piperazine
Methyllithium (61 ml, 85 mmol) as a 1.4M solution in diethyl ether is added to 30 ml tetrahydrofuran and cooled to -78°. 1-Benzyl-4-[3-(1-cyano-1-methylethylamino)pyridyl]-piperazine (PREPARATION 95, 7.14 g, 21.28 mmol), dissolved in 30 ml cooled tetrahydrofuran, is cannulated into the methyllithium solution, rinsing in with 10 ml THF. The reaction is stirred at -78° and allowed to warm to 20°-25° overnight. The reaction is cautiously quenched with water, then extracted from water with methylene chloride. The extract is dried over sodium sulfate and concentrated. The concentrate is chromatographed on a 500 g silica gel column, eluting with ethyl acetate/hexane (2/3, v/v), the appropriate fractions are pooled and concentrated to give the title compound, NMR (300 MHz, CD3OD) 7.44, 7.43-7.07, 6.84-6.80, 3.49, 2.92, 2.52, 1.28 δ.

reactant | Methyllithium | 85 mmol, 61 ml | C[Li]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | 1-Benzyl-4-[3-(1-cyano-1-methylethylamino)pyridyl]-piperazine | 21.28 mmol, 7.14 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=CC=C1NC(C)(C)C#N | C20H25N5
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyl-4-[3-(1,1-dimethylethylamino)pyridyl]piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=CC=C1NC(C)(C)C | C20H28N4
